US06313116B1
2-(Piperidin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester
Starting from 2-(piperidin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid (190 mg), p-nitrophenol (100 mg), and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (150 mg) in dichloromethane (20 ml). Purification by column chromatography (eluent 50% ethylacetate in hexane) yielded the title compound as an off-white solid (240 mg). TLC Rf 0.39 (50% ethyl acetate in hexane).

reactant | 2-(piperidin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid | 190 mg | N1(CCCCC1)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C14H16N2O3S
reactant | p-nitrophenol | 100 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 150 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(Piperidin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester | 240 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(SC21)N2CCCCC2)OC | C20H19N3O5S
